US05171353
Synthesis of N1 -(2,6-dichloro-7-methyl-8-purinyl)-2-carbomethoxybenzenesulfonamide (process B)
At 70° C., 6.60 g (28 mmol) of 2-carbomethoxybenzenesulfonamide was added to a suspension of 3.00 g (14.0 mmol) of 8-amino-2,6-dichloro-7-methylpurine in 150 ml of pyridine. After 3 hours at 70°-80° C., the reaction mixture was evaporated down in a rotary evaporator, and the residue was stirred into ice/H2O and acidified with dilute HCl. The desired product was obtained in the form of a brown powder having the following physical data (active ingredient 1.020)

reactant | 2-carbomethoxybenzenesulfonamide | 28 mmol, 6.60 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N | C8H9NO4S
reactant | 8-amino-2,6-dichloro-7-methylpurine | 14.0 mmol, 3.00 g | NC1=NC2=NC(=NC(=C2N1C)Cl)Cl | C6H5Cl2N5
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N1 -(2,6-dichloro-7-methyl-8-purinyl)-2-carbomethoxybenzenesulfonamide | ClC1=NC(=C2N(C(=NC2=N1)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC)C)Cl | C14H11Cl2N5O4S
